US09278944B2
3-Ethyl-N-methoxy-1-(3-methoxypropyl)-N-methyl-1H-pyrrolo[3,2-c]pyridine-6-carboxamide and methylmagnesium bromide were treated in the similar manner to Reference Example 6(5) to give 1-[3-ethyl-1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridin-6-yl]ethanone [REx(106-4)] as a pale yellow oil

reactant | 3-Ethyl-N-methoxy-1-(3-methoxypropyl)-N-methyl-1H-pyrrolo[3,2-c]pyridine-6-carboxamide | C(C)C1=CN(C2=C1C=NC(=C2)C(=O)N(C)OC)CCCOC | C16H23N3O3
reactant | methylmagnesium bromide | C[Mg]Br
product | 1-[3-ethyl-1-(3-methoxypropyl)-1H-pyrrolo[3,2-c]pyridin-6-yl]ethanone | C(C)C1=CN(C2=C1C=NC(=C2)C(C)=O)CCCOC | C15H20N2O2
